US06469005B1
a) 5-(4-Chloro-phenyl)-2,2-dimethyl-5-prop-2-ynyl-(1,3)dioxolan-4-one
3.3 ml of butyl lithium (1.6 molar in hexane) are added under stirring to a solution of 0.8 ml diisopropylamine in 20 ml tetrahydrofurane at −78° C. under nitrogen. After stirring for 30 minutes at the same temperature, 1.13 g of 5-(4-chloro-phenyl )-2,2-dimethyl-(1,3)-dioxolan-4-one in 5 ml tetrahydrofurane are added and stirring is continued for 1.5 hours. Then the reaction mixture is treated with a solution of 0.57 ml propargyl bromide in 3 ml tetrahydrofurane. Stirring is continued at about 60° C. over the night. Then the reaction is quenched with HCl 1N (pH 6) and ice and water and extracted with diethyl ether. The extracts are dried over sodium sulfate and evaporated. The 5-(4-chloro-phenyl)-2,2-dimethyl-5-prop-2-ynyl-(1,3)dioxolan-4-one remains as a oil which is used directly for the next step.

reactant | butyl lithium | 1.6 molar, 3.3 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | 5-(4-chloro-phenyl )-2,2-dimethyl-(1,3)-dioxolan-4-one | 1.13 g | ClC1=CC=C(C=C1)C1C(OC(O1)(C)C)=O | C11H11ClO3
reactant | propargyl bromide | 0.57 ml | C(C#C)Br | C3H3Br
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
product | 5-(4-Chloro-phenyl)-2,2-dimethyl-5-prop-2-ynyl-(1,3)dioxolan-4-one | ClC1=CC=C(C=C1)C1(C(OC(O1)(C)C)=O)CC#C | C14H13ClO3
